US04515626
Production of 2-amino-4-cyclopropyl-6-methylpyrimidine (intermediate)
15 g of guanidine carbonate are added to a mixture of 10 g of 1-cyclopropyl-butane-1,3-dione and 150 g of water, and stirring is maintained at 95° C. for 5 hours. The mixture is then concentrated by evaporation to a volume of 50 ml, and the cooled aqueous concentrate is extracted three times with 100 ml of ethylene chloride each time. The organic phase is dried over magnesium sulfate and concentrated by evaporation. The residue crystallises to thus yield 5 g of the title compound, m.p. 113°-115° C.

reactant | guanidine carbonate | 15 g | C(O)(O)=O.NC(=N)N
reactant | 1-cyclopropyl-butane-1,3-dione | 10 g | C1(CC1)C(CC(C)=O)=O | C7H10O2
solvent | water | 150 g | O | H2O
product | 2-amino-4-cyclopropyl-6-methylpyrimidine | NC1=NC(=CC(=N1)C1CC1)C | C8H11N3
